US08067447B2
Methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-hydroxy-2,2-dimethylpropanoate (282 mg, 0.82 mmol) was dissolved in 10 mL DCM and benzyl-2,2,2-trichloroacetimidate (0.185 mL, 1.0 mmol) was added followed by 3 drops of CF3SO3H. The reaction was stirred for 2 h. Reaction was incomplete so added more benzyl-2,2,2-trichloroacetimidate (0.185 mL, 1.0 mmol). After 12 h, diluted with brine and extracted with DCM×3. The organic layers were dried over MgSO4, filtered, and concentrated. The residue was purified by SiO2 chromatography eluting with EtOAc/hexane gradient. Obtained 52 mg (15% yield) of methyl 3-(benzyloxy)-3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethylpropanoate. MS found: (M+H)+=433.

reactant | Methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-hydroxy-2,2-dimethylpropanoate | 0.82 mmol, 282 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)OC)(C)C)O | C19H19FN2O3
reactant | benzyl-2,2,2-trichloroacetimidate | 1.0 mmol, 0.185 mL | C(C1=CC=CC=C1)OC(C(Cl)(Cl)Cl)=N | C9H8Cl3NO
reactant | benzyl-2,2,2-trichloroacetimidate | 1.0 mmol, 0.185 mL | C(C1=CC=CC=C1)OC(C(Cl)(Cl)Cl)=N | C9H8Cl3NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | CF3SO3H | 3 drops | C(F)(F)(F)S(=O)(=O)O | CHF3O3S
solvent | brine | [Cl-].[Na+].O
product | methyl 3-(benzyloxy)-3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethylpropanoate | 52 mg, 15% yield | C(C1=CC=CC=C1)OC(C(C(=O)OC)(C)C)C=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F | C26H25FN2O3
